data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
4427,5059,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[C:11](=[O+:12][C-:13]([C:14]#[N:15])[C:16](=[O:17])[O:18][CH3:19])[C:20](=[O:21])[NH:22][CH3:23]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:11]([C:9]([NH:8][CH3:7])=[O:10])([C:20](=[O:21])[NH:22][CH3:23])[O:12][C:13]1([C:14]#[N:15])[C:16](=[O:17])[O:18][CH3:19],water,298.15,13.244129499858566,-38.99120179579316
3661,4181,[CH3:9][N+:10](=[CH:11][C:12]#[N:13])[N-:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1.[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@@H:5]([C:6](=[O:7])[O-:8])[N:14]([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[N:10]([CH3:9])[CH:11]1[C:12]#[N:13],water,298.15,22.275113796853045,-18.174703690063552
4620,5267,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[C:15](=[NH+:16][N-:17][C:18]([CH3:19])=[O:20])[C:21](=[O:22])[O:23][CH3:24]>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[N:17]([C:18]([CH3:19])=[O:20])[NH:16][C:15]2([C:13]([O:12][CH3:11])=[O:14])[C:21](=[O:22])[O:23][CH3:24],water,298.15,15.57370071924088,-22.658716544214226
96,108,[CH3:1][C:2]#[C:3][C:4]([F:5])([F:6])[F:7].[CH3:8][C:9](=[O:10])[C:11]#[N+:12][C-:13]([C:14]#[N:15])[C:16]#[N:17]>>[CH3:1][C:2]1=[C:3]([C:4]([F:5])([F:6])[F:7])[C:13]([C:14]#[N:15])([C:16]#[N:17])[N:12]=[C:11]1[C:9]([CH3:8])=[O:10],water,298.15,23.631715289373087,-49.00521767605908
5202,5903,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][NH:16][C:17](=[O:18])[CH-:19][O+:20]=[C:21]([C:22](=[O:23])[NH:24][CH3:25])[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1>>[C:1]1(=[O:2])[C@:3]2([O:4][CH3:5])[C@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[CH:19]([C:17]([NH:16][CH3:15])=[O:18])[O:20][C:21]2([C:22](=[O:23])[NH:24][CH3:25])[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1,water,298.15,4.095024085993489,-37.33027895431051
4152,4755,[CH3:10][O:11][C:12](=[O:13])[N-:14][NH+:15]=[CH:16][c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][CH:16]([c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[NH:15][N:14]1[C:12]([O:11][CH3:10])=[O:13],water,298.15,22.26265978056012,0.7375118150248489
3380,3840,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][O:10][C:11](=[O:12])[C-:13]([CH3:14])[NH+:15]=[CH:16][C:17]#[N:18]>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[C:13]([C:11]([O:10][CH3:9])=[O:12])([CH3:14])[NH:15][CH:16]2[C:17]#[N:18],water,298.15,6.965749645332941,-21.788679094982907
4926,5611,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][O:16][C:17](=[O:18])[C:19]([C:20]#[N:21])=[NH+:22][C-:23]([C:24]#[N:25])[C:26]#[N:27]>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[C:23]([C:24]#[N:25])([C:26]#[N:27])[NH:22][C:19]2([C:17]([O:16][CH3:15])=[O:18])[C:20]#[N:21],water,298.15,25.246507505920448,2.621046826200132
3134,3532,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][CH-:6][N+:7]([CH3:8])=[C:9]([C:10]([CH3:11])=[O:12])[C:13]([CH3:14])=[O:15]>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[CH:6]([CH3:5])[N:7]([CH3:8])[C:9]1([C:10]([CH3:11])=[O:12])[C:13]([CH3:14])=[O:15],water,298.15,35.51774729356289,-10.08999424547747
142,158,[CH3:1][C:2](=[O:3])[C:4]#[C:5][Cl:6].[CH3:7][O:8][C:9](=[O:10])[N:11]=[O+:12][N-:13][C:14]([CH3:15])=[O:16]>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([Cl:6])[N:11]([C:9]([O:8][CH3:7])=[O:10])[O:12][N:13]1[C:14]([CH3:15])=[O:16],water,298.15,20.9679425278118,-75.55670991502791
5230,5934,[CH3:10][O:11][C:12](=[O:13])[C-:14]([c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[N+:21]([CH3:22])=[C:23]([C:24]([CH3:25])=[O:26])[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:23]([C:24]([CH3:25])=[O:26])([c:27]2[cH:28][cH:29][cH:30][cH:31][cH:32]2)[N:21]([CH3:22])[C:14]1([C:12]([O:11][CH3:10])=[O:13])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1,water,298.15,35.245420040213354,-8.484162492015734
3417,3887,[CH2:1]=[CH2:2].[CH3:3][C:4](=[O:5])[C:6]([C:7]([CH3:8])=[O:9])=[N+:10]([CH3:11])[N-:12][c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1>>[CH2:1]1[CH2:2][N:12]([c:13]2[cH:14][cH:15][cH:16][cH:17][cH:18]2)[N:10]([CH3:11])[C:6]1([C:4]([CH3:3])=[O:5])[C:7]([CH3:8])=[O:9],water,298.15,18.28924916756659,-22.56637059209012
